US08877782B2
6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-N—((S)-2,2,2-trifluoro-1-methyl-ethyl)-nicotinamide
As described for example 346b, 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid (150 mg, 0.45 mmol) was converted, using L-2,2,2-trifluoro-1-(methyl)ethylamine instead of ethanolamine, to the title compound (190 mg, 98%) which was obtained as a white solid. MS: m/e=424.0 [M−H]−.

reactant | 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid | 0.45 mmol, 150 mg | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C16H11ClN2O4
reactant | L-2,2,2-trifluoro-1-(methyl)ethylamine | CC(C(F)(F)F)N | C3H6F3N
product | 6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-N—((S)-2,2,2-trifluoro-1-methyl-ethyl)-nicotinamide | 190 mg, 98% | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)N[C@H](C(F)(F)F)C)C=C1 | C19H15ClF3N3O3
